US04888332
Preparation of 5-chloro-7-mercapto-s-triazolo[1,5-a]pyrimidine
Thiourea (1.7 g) was added all at once to a solution of 4.2 g of 5,7-dichloro-s-triazolo[1,5-a]pyrimidine in 140 ml anhydrous ethanol at room temperature, the mixture was refluxed for 30 minutes, the crystals formed upon ice cooling were filtered off, and the filtrate was concentrated under reduced pressure. The residue was dissolved in 18 ml of 1N sodium hydroxide solution. The resulting solution was washed with 20 ml of ethyl acetate. The pH was adjusted to 1.0 with concentrated hydrochloric acid to give crystals. The crystals were collected by filtration and washed with 20 ml of water and then with 20 ml of methanol, affording 1.2 g of the objective compound as faint yellow crystals.

reactant | Thiourea | 1.7 g | NC(=S)N | CH4N2S
reactant | 5,7-dichloro-s-triazolo[1,5-a]pyrimidine | 4.2 g | ClC1=NC=2N(C(=C1)Cl)N=CN2 | C5H2Cl2N4
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 5-chloro-7-mercapto-s-triazolo[1,5-a]pyrimidine | 1.2 g | ClC1=NC=2N(C(=C1)S)N=CN2 | C5H3ClN4S
